US06013662
4.4 g (17.6 mmol) of (1RS,2RS)-1-hydroxy-2-methyl-5-oxo-2-phenylcyclohexane-1-carboxylic acid were heated at reflux for one hour in 100 cm3 of toluene in the presence of 0.34 g of para-toluenesulphonic acid. The reaction mixture was cooled to 0° C. and the precipitate formed was filtered off, washed with ethyl ether and then dried at 50° C. 2.8 g (69%) of (RS)-2-methyl-5-oxo-2-phenylcyclohexene-1-carboxylic acid were thus obtained in the form of a pink solid, the characteristics of which were as follows:

reactant | (1RS,2RS)-1-hydroxy-2-methyl-5-oxo-2-phenylcyclohexane-1-carboxylic acid | 17.6 mmol, 4.4 g | OC1(C(CCC(C1)=O)(C1=CC=CC=C1)C)C(=O)O | C14H16O4
reactant | para-toluenesulphonic acid | 0.34 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-methyl-5-oxo-2-phenylcyclohexene-1-carboxylic acid | 2.8 g, 69% | CC1(C(=CC(CC1)=O)C(=O)O)C1=CC=CC=C1 | C14H14O3
